US05864039
Benzaldehyde (0.76 g) was added to a solution of 4-amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (2.0 g) in ethanol (50 ml), and the mixture was stirred at refluxing temperature for 3 hr. Sodium borohydride (0.53 g) was added to the reaction mixture under ice-cooling, and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol:ammonia=50:5:1) to give 1.78 g of 4-amino-N-((1-(5-benzylaminopentyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide.

reactant | Benzaldehyde | 0.76 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 2.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | Sodium borohydride | 0.53 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-amino-N-((1-(5-benzylaminopentyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide | 1.78 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=CC=C2)C=C1Cl)OC | C26H37ClN4O2
